US06653342B2
1-(4-Methoxyacetylaminophenyl)cyclopentanecarboxylic acid
13 g (20 mmol) of triphenylphosphine complex of nickel (II) chloride were added to a solution of 25.3 g (100 mmol) of 1-(4-nitrophenyl)cyclopentanoic acid in 200 ml of a 1:1 by volume mixture of methanol and tetrahydrofuran cooled in an ice bath. 10 g of sodium boronhydride were added to the cooled mixture in small portions over 10 minutes. The resulting mixture was then stirred at room temperature for 20 minutes, at the end of which time the reaction mixture was poured into 500 ml of water and the pH was then adjusted to 4 with concentrated hydrochloric acid. This caused the precipitation of crystals of 1-(4-aminophenyl)cyclopentanecarboxylic acid which were collected by filtration. 22.2 g (150 mmol) of potassium carbonate and 100 ml of tetrahydrofuran were then added to a suspension of the crystalline product in 100 ml of water which had been cooled in an ice bath, after which 9.0 ml (100 mmol) of methoxyacetyl chloride were added. After stirring the resulting mixture at the same temperature for 30 minutes, 200 ml of water were added, the mixture was washed with ether and the pH of the ether extract was then adjusted to 4 with concentrated hydrochloric acid. This mixture was allowed to stand at room temperature for 2 hours and the resulting crystals were collected by filtration to afford 25.4 g (yield 91.6%) of the desired compound as white crystals.

reactant | 1-(4-nitrophenyl)cyclopentanoic acid | 100 mmol, 25.3 g | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13NO4
reactant | sodium | 10 g | [Na] | Na
reactant | hydrochloric acid | Cl | ClH
reactant | potassium carbonate | 150 mmol, 22.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxyacetyl chloride | 100 mmol, 9.0 ml | COCC(=O)Cl | C3H5ClO2
solvent | water | 100 ml | O | H2O
catalyst | nickel (II) chloride | [Ni](Cl)Cl
solvent | water | 200 ml | O | H2O
solvent | water | 500 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-(4-Methoxyacetylaminophenyl)cyclopentanecarboxylic acid | 25.4 g, yield 91.6% | COCC(=O)NC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C15H19NO4
